US04080329
To 70.5 g. of 2-aminopyridine, partially dissolved in 180 g. of xylene, was slowly added, with stirring, 79.6 g. acetic anhydride. The addition was carried out over a 20-minute period. The reaction vessel was water-cooled so as to maintain the reaction mixture at 30-40° C during the addition. The reaction solution was then heated for 1 hour at a temperature of 74°-78° C to give 2-acetamidopyridine, which was used without isolation.

reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 2-acetamidopyridine | C(C)(=O)NC1=NC=CC=C1 | C7H8N2O
